US06376491B1
5-Cyclohexylmethyl-2-(3-methyl-4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-yl)-trans-4,5-dihydro-oxazole-4-carboxylic acid ethyl ester (10.0 mg) and nickel peroxide hydrate (22 mg) in toluene (2 ml) was heated at 80° C. under the atmosphere of argon for 23 hours. The reaction mixture was directly poured onto silica gel column chromatography and eluted with 2:3 mixture of n-hexane and ethyl acetate to give 5-cyclohexylmethyl-2-(3-methyl-4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester (2.2 mg). FAB-MS: m/z 632 (MH+).

reactant | 5-Cyclohexylmethyl-2-(3-methyl-4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-yl)-trans-4,5-dihydro-oxazole-4-carboxylic acid ethyl ester | 10.0 mg | C(C)OC(=O)[C@@H]1N=C(O[C@H]1CC1CCCCC1)C=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C(=O)OC(C)(C)C | C36H47N3O7
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | nickel peroxide hydrate | 22 mg | O.OO.[Ni]
product | 5-cyclohexylmethyl-2-(3-methyl-4-{3-[tert-butoxycarbonyl-(pyridin-3-ylmethyl)-amino]-propoxy}-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester | 2.2 mg | C(C)OC(=O)C=1N=C(OC1CC1CCCCC1)C=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C(=O)OC(C)(C)C | C36H45N3O7
